US05134142
A solution of 1-[4-(formylamino)phenyl]-5-[5-(methylsulfonyl)-2-thienyl]pyrazole-3-carbonitrile (1.1 g) in N,N-dimethylformamide (3 ml) was added dropwise to a suspension of sodium hydride (60%; 118 mg) in N,N-dimethylformamide (2 ml). The mixture was stirred at 0° C. for 30 minutes. To the mixture was added dropwise a solution of iodomethane (0.84 g) in N,N-dimethylformamide (2 ml) at 0° C. The resulting mixture was stirred at 0° C. for 1 hour, poured into an ice-cooled dilute hydrochloric acid, and extracted with ethyl acetate. The extract was washed with water, dried over magnesium sulfate, and evaporated in vacuo. The residue was recrystallized from ethanol to give crystals of 1-[4-(N-formylmethylamino)phenyl]-5-[5-(methylsulfonyl)-2-thienyl]pyrazole -3-carbonitrile (1 g).

reactant | 1-[4-(formylamino)phenyl]-5-[5-(methylsulfonyl)-2-thienyl]pyrazole-3-carbonitrile | 1.1 g | C(=O)NC1=CC=C(C=C1)N1N=C(C=C1C=1SC(=CC1)S(=O)(=O)C)C#N | C16H12N4O3S2
reactant | sodium hydride | 118 mg | [H-].[Na+]
reactant | iodomethane | 0.84 g | IC | CH3I
reactant | hydrochloric acid | Cl | ClH
reactant | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
reactant | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
reactant | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 1-[4-(N-formylmethylamino)phenyl]-5-[5-(methylsulfonyl)-2-thienyl]pyrazole -3-carbonitrile | 1 g | C(=O)CNC1=CC=C(C=C1)N1N=C(C=C1C=1SC(=CC1)S(=O)(=O)C)C#N | C17H14N4O3S2
